US05700445
2-cyano-10-oxo-dibenzo[b,f]thiepine:
To a suspension of 2-amino-10-oxo-dibenzo[b,f]thiepine (1 g, 4.40 mmol) in 2N HCl (7.00 mL) at 0° C., was slowly added a solution of NaNO2 l (0.316 g, 4.60 mmol) in water (4.00 mL). A CuCN solution was prepared by heating KCN (1.30 g, 20.0 mmol) in water (5.0 mL) and adding CuSO4.5H2O (1.09 g, 4.40 mmol) solution in water (4.0 mL). Once cooled to room temperature the CuCN solution was slowly added to the diazonium salt mixture and heated to 50° C. for 1 hour. The reaction mixture was diluted with EtOAc and filtered through celite pad. The filtrate was washed with brine, dried (MgSO4) and concentrated to give an oil. The crude material was chromatographed (5%EtOAc/Hexane); yield 0.16 g (15%).

reactant | 2-amino-10-oxo-dibenzo[b,f]thiepine | 4.40 mmol, 1 g | NC1=CC2=C(SC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H11NOS
reactant | NaNO2 | 4.60 mmol, 0.316 g | N(=O)[O-].[Na+]
reactant | KCN | 20.0 mmol, 1.30 g | [C-]#N.[K+]
reactant | CuCN | C(#N)[Cu]
solvent | HCl | 2N, 7.00 mL | Cl | ClH
solvent | water | 4.00 mL | O | H2O
solvent | water | 5.0 mL | O | H2O
solvent | water | 4.0 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-cyano-10-oxo-dibenzo[b,f]thiepine | C(#N)C1=CC2=C(SC3=C(C(C2)=O)C=CC=C3)C=C1 | C15H9NOS
